US07262212B2
A mixture of 4-bromobenzonitrile (2.76 g, 15.16 mmol), 4-(tert-butyldimethylsiloxy)piperidine (2.9 g, 13.79 mmol), palladium acetate (62 mg, 0.28 mmol), (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (258 mg, 0.41 mmol), and sodium tert-butoxide (1.99 g, 20.68 mmol) in toluene (60 ml) was stirred at 80° C. for 1 hour. The reaction mixture was allowed to return to room temperature, to which ethyl acetate (60 ml) was added, and the mixture was filtered. The filtration was washed with water and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/methylene chloride=1/1) to afford 4-[4-(tert-butyldimethylsiloxy)piperidin-1-yl]benzonitrile (2.8 g, yield 66%) as a pale yellow crystalline powder.

reactant | 4-bromobenzonitrile | 15.16 mmol, 2.76 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 4-(tert-butyldimethylsiloxy)piperidine | 13.79 mmol, 2.9 g | O([Si](C)(C)C(C)(C)C)C1CCNCC1 | C11H25NOSi
reactant | sodium tert-butoxide | 20.68 mmol, 1.99 g | CC(C)([O-])C.[Na+]
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.28 mmol, 62 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.41 mmol, 258 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | 4-[4-(tert-butyldimethylsiloxy)piperidin-1-yl]benzonitrile | 2.8 g, yield 66% | O([Si](C)(C)C(C)(C)C)C1CCN(CC1)C1=CC=C(C#N)C=C1 | C18H28N2OSi
